* 
* ******************************************************************************
* *                                                                            *
* *                   Copyright (C) 2004-2010, Nangate Inc.                    *
* *                           All rights reserved.                             *
* *                                                                            *
* * Nangate and the Nangate logo are trademarks of Nangate Inc.                *
* *                                                                            *
* * All trademarks, logos, software marks, and trade names (collectively the   *
* * "Marks") in this program are proprietary to Nangate or other respective    *
* * owners that have granted Nangate the right and license to use such Marks.  *
* * You are not permitted to use the Marks without the prior written consent   *
* * of Nangate or such third party that may own the Marks.                     *
* *                                                                            *
* * This file has been provided pursuant to a License Agreement containing     *
* * restrictions on its use. This file contains valuable trade secrets and     *
* * proprietary information of Nangate Inc., and is protected by U.S. and      *
* * international laws and/or treaties.                                        *
* *                                                                            *
* * The copyright notice(s) in this file does not indicate actual or intended  *
* * publication of this file.                                                  *
* *                                                                            *
* *         buildcell, v2010.08-HR32-SP3-2010-08-05 - build 1009061800         *
* *                                                                            *
* ******************************************************************************
* 
* 
* Running on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr).
* Local time is now Fri, 3 Dec 2010, 19:25:53.
* Main process id is 28006.
*
********************************************************************************
*                                                                              *
* Cellname:   INV_X1.                                                          *
*                                                                              *
* Technology: NCSU FreePDK 45nm.                                               *
* Format:     Cdl.                                                             *
*                                                                              *
* Written on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr)     *
* at 19:25:53 on Fri, 3 Dec 2010.                                              *
*                                                                              *
********************************************************************************
.SUBCKT INV_X1 VDD VSS VSUBP VSUBN A ZN 
*.PININFO VDD:P VSS:G A:I ZN:O 
*.EQN ZN=!A
M_M1 N_ZN_M0_d N_A_M0_g N_VDD_M0_s VSUBP PMOS_VTL W=0.630000U L=0.050000U
M_M0 N_ZN_M1_d N_A_M1_g N_VSS_M1_s VSUBN NMOS_VTL W=0.415000U L=0.050000U
C_x_PM_INV_X1%VDD_c0 x_PM_INV_X1%VDD_31 VSS 4.13109e-17
C_x_PM_INV_X1%VDD_c1 x_PM_INV_X1%VDD_19 VSS 2.61599e-16
C_x_PM_INV_X1%VDD_c2 x_PM_INV_X1%VDD_18 VSS 1.89932e-17
C_x_PM_INV_X1%VDD_c3 N_VDD_M0_s VSS 3.88255e-17
C_x_PM_INV_X1%VDD_c4 x_PM_INV_X1%VDD_12 VSS 1.92462e-17
C_x_PM_INV_X1%VDD_c5 x_PM_INV_X1%VDD_11 VSS 2.334e-16
C_x_PM_INV_X1%VDD_c6 x_PM_INV_X1%VDD_8 VSS 5.52247e-16
R_x_PM_INV_X1%VDD_r7 VDD x_PM_INV_X1%VDD_31 0.13879
R_x_PM_INV_X1%VDD_r8 VDD x_PM_INV_X1%VDD_28 0.392137
R_x_PM_INV_X1%VDD_r9 VDD x_PM_INV_X1%VDD_19 0.13879
R_x_PM_INV_X1%VDD_r10 x_PM_INV_X1%VDD_19 VDD 3.84471
R_x_PM_INV_X1%VDD_r11 x_PM_INV_X1%VDD_18 x_PM_INV_X1%VDD_28 0.0752999
R_x_PM_INV_X1%VDD_r12 x_PM_INV_X1%VDD_31 x_PM_INV_X1%VDD_18 0.704118
R_x_PM_INV_X1%VDD_r13 x_PM_INV_X1%VDD_28 N_VDD_M0_s 0.719286
R_x_PM_INV_X1%VDD_r14 x_PM_INV_X1%VDD_12 VDD 0.140282
R_x_PM_INV_X1%VDD_r15 x_PM_INV_X1%VDD_11 VDD 0.143516
R_x_PM_INV_X1%VDD_r16 x_PM_INV_X1%VDD_11 x_PM_INV_X1%VDD_12 7.68941
R_x_PM_INV_X1%VDD_r17 x_PM_INV_X1%VDD_8 VDD 8.51647
C_x_PM_INV_X1%VSS_c0 VSS VSS 2.61599e-16
C_x_PM_INV_X1%VSS_c1 x_PM_INV_X1%VSS_18 VSS 1.89932e-17
C_x_PM_INV_X1%VSS_c2 x_PM_INV_X1%VSS_17 VSS 4.14709e-17
C_x_PM_INV_X1%VSS_c3 N_VSS_M1_s VSS 4.35792e-17
C_x_PM_INV_X1%VSS_c4 x_PM_INV_X1%VSS_10 VSS 5.52247e-16
C_x_PM_INV_X1%VSS_c5 x_PM_INV_X1%VSS_9 VSS 1.92462e-17
C_x_PM_INV_X1%VSS_c6 x_PM_INV_X1%VSS_8 VSS 2.334e-16
R_x_PM_INV_X1%VSS_r7 VSS x_PM_INV_X1%VSS_29 0.392137
R_x_PM_INV_X1%VSS_r8 x_PM_INV_X1%VSS_18 x_PM_INV_X1%VSS_29 0.0752999
R_x_PM_INV_X1%VSS_r9 x_PM_INV_X1%VSS_18 VSS 0.178824
R_x_PM_INV_X1%VSS_r10 VSS x_PM_INV_X1%VSS_17 0.13879
R_x_PM_INV_X1%VSS_r11 x_PM_INV_X1%VSS_17 VSS 0.525294
R_x_PM_INV_X1%VSS_r12 x_PM_INV_X1%VSS_29 N_VSS_M1_s 1.47929
R_x_PM_INV_X1%VSS_r13 x_PM_INV_X1%VSS_10 VSS 8.51647
R_x_PM_INV_X1%VSS_r14 x_PM_INV_X1%VSS_9 VSS 0.140282
R_x_PM_INV_X1%VSS_r15 x_PM_INV_X1%VSS_8 VSS 0.143516
R_x_PM_INV_X1%VSS_r16 x_PM_INV_X1%VSS_8 x_PM_INV_X1%VSS_9 7.68941
C_x_PM_INV_X1%A_c0 x_PM_INV_X1%A_18 VSS 1.01215e-17
C_x_PM_INV_X1%A_c1 x_PM_INV_X1%A_9 VSS 4.4957e-17
C_x_PM_INV_X1%A_c2 N_A_M0_g VSS 8.65621e-17
C_x_PM_INV_X1%A_c3 N_A_M1_g VSS 6.49671e-17
R_x_PM_INV_X1%A_r4 x_PM_INV_X1%A_11 x_PM_INV_X1%A_18 3.9
R_x_PM_INV_X1%A_r5 x_PM_INV_X1%A_9 x_PM_INV_X1%A_11 25.0012
R_x_PM_INV_X1%A_r6 x_PM_INV_X1%A_9 A 0.135714
R_x_PM_INV_X1%A_r7 x_PM_INV_X1%A_5 x_PM_INV_X1%A_18 1.95
R_x_PM_INV_X1%A_r8 x_PM_INV_X1%A_5 N_A_M0_g 56.94
R_x_PM_INV_X1%A_r9 x_PM_INV_X1%A_1 x_PM_INV_X1%A_18 1.95
R_x_PM_INV_X1%A_r10 x_PM_INV_X1%A_1 N_A_M1_g 40.17
C_x_PM_INV_X1%ZN_c0 N_ZN_M1_d VSS 1.95828e-16
R_x_PM_INV_X1%ZN_r1 ZN N_ZN_M0_d 2.21
R_x_PM_INV_X1%ZN_r2 N_ZN_M1_d ZN 1.09
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
